US04105652
Boc-Gly-Glu(OBzl)-OBzl (XVIII)
To a stirred solution at 0° C, of HCl.H-Glu(OBzl)-OBzl (1.82 g, 5 mmol) in DMF (35 ml), Et3N (0.7 ml) was added dropwise followed by Boc-Gly-OSu (1.5 g, 5.5 mmol). The mixture was stirrred at 0° C for 2 hr and at room temperature overnight; pH 8 was maintained by addition of a few drops of Et3N. The reaction mixture was then evaporated to a small volume and H2O was added. The precipitated oil was extracted with EtOAc and the organic phase was washed with 1 M AcOH, water, and dried (Na2SO4). Evaporation provided an oil which was purified on a Silica gel 60 column using CHCl3 :MeOH (5:1) as eluant. The pooled fractions containing (XVIII) were evaporated yielding colorless oil which failed to crystallize, 1.62 g (67%) homogeneous on tlc [α]D25 -15.0° (c 2, MeOH). Anal. Calcd for C26H32N2O7 (484.558): C, 64.45; H, 6.66; N, 5.78. Found: C, 64.23; H, 6.72; N, 5.66. Compound XVIII was also prepared from Boc-Gly-Glu(OBzl)-OH via the cesium salt procedure of Wang et al, supra.

reactant | HCl | Cl | ClH
reactant | H-Glu(OBzl)-OBzl | 5 mmol, 1.82 g | N[C@@H](CCC(OCC1=CC=CC=C1)=O)C(=O)OCC1=CC=CC=C1 | C19H21NO4
reactant | Boc-Gly-OSu | 5.5 mmol, 1.5 g | N(CC(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C11H16N2O6
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
solvent | Et3N | 0.7 ml | CCN(CC)CC | C6H15N
catalyst | Et3N | a few drops | CCN(CC)CC | C6H15N
product | Boc-Gly-Glu(OBzl)-OBzl | N(CC(=O)N[C@@H](CCC(OCC1=CC=CC=C1)=O)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C26H32N2O7
